US04782056
2-[3,5-Dichloro-4-(4-methylsulfonylphenoxy)phenyl]-4-methylhexahydro-1,2,4-triazine-3,5-dione
1 g of 2-[3,5-dichloro-4-(4-methylsulfonylphenoxy)phenyl]hexahydro-1,2,4-triazine-3,5-dione was dissolved in 10 ml of dimethylformamide and, with exclusion of moisture, about 250 mg of a suspension of sodium hydride were added. After the evolution of gases was complete, 1 ml of methyl iodide was added, with stirring, and then the mixture was stirred at room temperature for a further 5 h. The reaction solution was poured onto water, and the precipitate was filtered off with suction and recrystallized from isopropanol, melting point 217° C.

reactant | 2-[3,5-dichloro-4-(4-methylsulfonylphenoxy)phenyl]hexahydro-1,2,4-triazine-3,5-dione | 1 g | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)S(=O)(=O)C)Cl)N1NCC(NC1=O)=O | C16H13Cl2N3O5S
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 1 ml | CI | CH3I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[3,5-Dichloro-4-(4-methylsulfonylphenoxy)phenyl]-4-methylhexahydro-1,2,4-triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)S(=O)(=O)C)Cl)N1NCC(N(C1=O)C)=O | C17H15Cl2N3O5S
